### PR TITLE
feat(Algebra/QuadraticAlgebra): base change of quadratic algebras

### PR DESCRIPTION
**Pull request by xroblot**
A base change `R → S` induces an `R`-algebra homomorphism `QuadraticAlgebra R a b →ₐ[R] QuadraticAlgebra S (algebraMap R S a) (algebraMap R S b)` sending `ω` to `ω`, injective when `S` is faithful over `R`, and compatible with the norm, the trace and the discriminant.

Prepared with Claude Code 🤖

### CODE REVIEW

File: Mathlib/Algebra/QuadraticAlgebra/Basic.lean [hunk 1]
```diff
@@ -484,6 +486,50 @@ def changeGeneratorEquiv (a b : R) (u : Rˣ) (k : R) {a' b' : R}
...
+
+variable [CommRing R] [CommRing S] [Algebra R S] (a b : R)
+
+theorem norm_baseChange (x : QuadraticAlgebra R a b) :
+    norm (baseChange S a b x) = algebraMap R S (norm x) := by
+  simp [norm_def, Algebra.smul_def]
+
+theorem trace_baseChange (x : QuadraticAlgebra R a b) :
+    trace (baseChange S a b x) = algebraMap R S (trace x) := by
+  simp [trace_def, Algebra.smul_def, map_ofNat]
```
Comment (jcommelin) [inline Mathlib/Algebra/QuadraticAlgebra/Basic.lean:530]: Should these be simp lemmas?

File: Mathlib/Algebra/QuadraticAlgebra/Basic.lean [hunk 2]
```diff
@@ -484,6 +486,50 @@ def changeGeneratorEquiv (a b : R) (u : Rˣ) (k : R) {a' b' : R}
...
+variable [CommSemiring R] [CommRing S] [Algebra R S] (a b : R)
+
+/-- The `R`-algebra map between quadratic algebras induced by the base change `R → S`,
+sending `ω` to `ω`. -/
+@[simps!]
+def baseChange :
+    QuadraticAlgebra R a b →ₐ[R] QuadraticAlgebra S (algebraMap R S a) (algebraMap R S b) :=
+  lift ⟨omega, by ext <;> simp [Algebra.algebraMap_eq_smul_one]⟩
+
+theorem baseChange_omega :
```
Comment (jcommelin) [inline Mathlib/Algebra/QuadraticAlgebra/Basic.lean:505]:
```suggestion
@[simp]
theorem baseChange_omega :
```

File: Mathlib/Algebra/QuadraticAlgebra/Basic.lean (hunk 1 above)
Comment (xroblot) [reply Mathlib/Algebra/QuadraticAlgebra/Basic.lean:530]: Indeed.

File: Mathlib/Algebra/QuadraticAlgebra/Basic.lean (hunk 2 above)
Comment (xroblot) [reply Mathlib/Algebra/QuadraticAlgebra/Basic.lean:505]: Done. Thanks for the review!

File: Mathlib/Algebra/QuadraticAlgebra/Basic.lean [hunk 3]
```diff
@@ -484,6 +486,53 @@ def changeGeneratorEquiv (a b : R) (u : Rˣ) (k : R) {a' b' : R}
...
+section CommSemiring
+
+variable [CommSemiring R] [CommRing S] [Algebra R S] (a b : R)
+
+/-- The `R`-algebra map between quadratic algebras induced by the base change `R → S`,
+sending `ω` to `ω`. -/
+@[simps!]
+def baseChange :
+    QuadraticAlgebra R a b →ₐ[R] QuadraticAlgebra S (algebraMap R S a) (algebraMap R S b) :=
+  lift ⟨omega, by ext <;> simp [Algebra.algebraMap_eq_smul_one]⟩
```
Comment (robin-carlier) [inline Mathlib/Algebra/QuadraticAlgebra/Basic.lean:502]: I think for consistency, we should have a design that follows what is done for polynomial algebras.

This means
- Instead of taking an `Algebra R S` as input, we take a `RingHom` as a parameter, and call this `mapRingHom` (mimicking `Polynomial.mapRingHom`).
- Using this, we define a reducible (or instance-reducible) `Algebra` def that we can use as a local instance if we want to see `QuadraticAlgebra S (algebraMap R S a) (algebraMap R S b)` as a `QuadraticAlgebra R a b`-algebra. It shouldn’t be a global instance for the usual diamond reasons when `R` is `S` (or should it? Would the `algebraMap R R a` and `algebraMap R R b` appearing in the term be enough to guard from this?).
- This way, by activating the algebra as a local instance, we can prove that this base change is actually the base change, i.e., we can give an `Algebra.IsPushout` instance.

Comment (xroblot) [reply Mathlib/Algebra/QuadraticAlgebra/Basic.lean]: So I have implemented all three points.
- There is now `mapRingHom` with `baseChange` kept as the special `algebraMap` case. 
- This gives a def `QuadraticAlgebra.algebra`. As expected, it cannot be an instance since it creates a diamond in the case `R = S`
- But using it as a local instance, `Algebra.IsPushout` is proved in a new file `BaseChange` along with the resulting isomorphism.
